US06281227B1
A. 1-Phenoxy-6-bromomethyl-isoquinoline
To 1-chloro-6-methyl-isoquinoline (2.28 g, 13.3 mmol), which is prepared as described in EXAMPLE 1, Part E, substituting 6-methyl-2H-isoquinolin-1-one for 7-methyl-2H-isoquinolin-1-one, is added 20 g of phenol. The solution is heated to 80° C. and KOH (3.73 g, 66.4 mmol) is added. After the addition, the solution is stirred and heated to 140° C. After 24 hours, the solution is cooled to ambient temperatures, and dissolved in CH2Cl2. The organic solution is washed with H2O. The organic layer is washed with 1 N NaOH and saturated NaCl. the organic layer is dried over MgSO4, filtered and concentrated. The resulting residue is dissolved in 50 mL of CCL4. To the resulting solution is added NBS (2.01 g, 11.27 mmol) and benzoyl peroxide (0.6 g, 1.73 mmol). The solution is heated to reflux. After 16 hours, the solution is diluted with CH2Cl2. The organic layer is washed with 10% Na2CO3 and saturated NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The residue is purified by column chromatography eluting with 5% EtOAc/hexanes and 10% EtOAc/hexanes.

reactant | 1-chloro-6-methyl-isoquinoline | 13.3 mmol, 2.28 g | ClC1=NC=CC2=CC(=CC=C12)C | C10H8ClN
reactant | 7-methyl-2H-isoquinolin-1-one | CC1=CC=C2C=CNC(C2=C1)=O | C10H9NO
reactant | phenol | 20 g | C1(=CC=CC=C1)O | C6H6O
reactant | KOH | 66.4 mmol, 3.73 g | [OH-].[K+]
reactant | NBS | 11.27 mmol, 2.01 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 1.73 mmol, 0.6 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-Phenoxy-6-bromomethyl-isoquinoline | O(C1=CC=CC=C1)C1=NC=CC2=CC(=CC=C12)CBr | C16H12BrNO
